US07238706B2
To a solution of LDA (1.2 eq) in THF at −78° C. was added ethyl cyclobutanecarboxylate (1 eq) and reaction mixture was warmed up to −40° C. for 10 min. The reaction was cooled back to −78° C. for 1 h, then 4-bromobenzyl bromide (1.1 eq) was added as a solid to the mixture. The reaction mixture was warmed to 0° C. in an ice bath. The reaction was quenched with a saturated solution of NH4Cl and extract 3× with ethyl acetate, dried with MgSO4 and evaporated to dryness. Flash chromatography with 95:5 hexanes:ethyl acetate afforded ethyl 1-(4-bromobenzyl)cyclobutanecarboxylate.

reactant | LDA | 1.2 eq | [Li+].CC(C)[N-]C(C)C
reactant | ethyl cyclobutanecarboxylate | 1 eq | C1(CCC1)C(=O)OCC | C7H12O2
reactant | 4-bromobenzyl bromide | 1.1 eq | BrC1=CC=C(CBr)C=C1 | C7H6Br2
solvent | THF | C1CCOC1 | C4H8O
product | ethyl 1-(4-bromobenzyl)cyclobutanecarboxylate | BrC1=CC=C(CC2(CCC2)C(=O)OCC)C=C1 | C14H17BrO2
